US05521177
a) Methyl 4'-[(2-n-propyl-4-chloro-6-phthalimido-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate
3.27 g (10.0 mMol) of 2-n-propyl-4-chloro-6-phthalimido-1H-benzimidazole are dissolved in 50 ml of dimethylsulphoxide, 1.23 g (11.0 mMol) of potassium tert.butoxide are added in batches thereto and the resulting mixture is stirred for 30 minutes at ambient temperature. Then 3.38 g (11.0 mMol) of methyl 4'-bromomethyl-biphenyl-2-carboxylate are added in batches thereto. The reaction mixture is then stirred for 3 hours at ambient temperature, stirred into ice water and extracted 3 times with ethyl acetate. The combined organic phases are washed with saline solution and dried over magnesium sulphate. Then the solvent is removed in vacuo and the residue is chromatographed on silica gel (particle size 0.032-0.063 mm), using as eluant first petroleum ether and then mixtures of petroleum ether and ethyl acetate of increasing polarity (9:1, 4:1 and 7:3). The uniform fractions are combined and evaporated down.

reactant | 2-n-propyl-4-chloro-6-phthalimido-1H-benzimidazole | 10.0 mMol, 3.27 g | C(CC)C1=NC2=C(N1)C=C(C=C2Cl)N2C(C=1C(C2=O)=CC=CC1)=O | C18H14ClN3O2
reactant | potassium tert.butoxide | 11.0 mMol, 1.23 g | CC(C)([O-])C.[K+]
reactant | methyl 4'-bromomethyl-biphenyl-2-carboxylate | 11.0 mMol, 3.38 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | Methyl 4'-[(2-n-propyl-4-chloro-6-phthalimido-1H-benzimidazol-1-yl) -methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2Cl)N2C(C=1C(C2=O)=CC=CC1)=O | C33H26ClN3O4
